US09085516B2
Preparation of 2-(3,3-dimethylcyclohexyl)pent-4-en-2-ol
The protocol of example 1 is carried out again with allyl chloride replacing bromoethane, and herbac replacing dehydroherbac.

reactant | allyl chloride | C(C=C)Cl | C3H5Cl
reactant | herbac | CC(=O)C1CCCC(C1)(C)C | C10H18O
product | 2-(3,3-dimethylcyclohexyl)pent-4-en-2-ol | CC1(CC(CCC1)C(C)(CC=C)O)C | C13H24O
